US07989622B2
N-(3-(3-Methoxy-5-nitrophenylamino)quinoxalin-2-yl)-3-nitrobenzenesulfonamide (400 mg, 0.81 mmol), prepared as described above in Example 115, was dissolved in 1:1 THF:EtOH (4 mL), to which was added formic acid (938 μl, 2.42 mmol) and potassium formate (203 mg, 2.42 mmol). The system was flushed with nitrogen, and then 10% wt Pd/C (50 mg) was added. The reaction was then heated to 60° C. Once the reaction was determined complete by LC-MS, it was allowed to cool, and DMF was added for solubility. The solution was then filtered through a nylon frit to remove the catalyst. The filtrate was diluted water and the pH adjusted to 7 and extracted with DCM (2×) and EtOAc (2×). All organic layers were combined and evaporated to dryness to give 3-amino-N-(3-(3-amino-5-methoxyphenylamino)quinoxalin-2-yl)benzenesulfonamide (330 mg, 93%). MS (EI) m/z for C21H20N6O3S: 437.06 (MH+)

reactant | N-(3-(3-Methoxy-5-nitrophenylamino)quinoxalin-2-yl)-3-nitrobenzenesulfonamide | 0.81 mmol, 400 mg | COC=1C=C(C=C(C1)[N+](=O)[O-])NC=1C(=NC2=CC=CC=C2N1)NS(=O)(=O)C1=CC(=CC=C1)[N+](=O)[O-] | C21H16N6O7S
reactant | EtOH | 4 mL | CCO | C2H6O
reactant | formic acid | 2.42 mmol, 938 μl | C(=O)O | CH2O2
reactant | potassium formate | 2.42 mmol, 203 mg | C(=O)[O-].[K+]
solvent | THF | C1CCOC1 | C4H8O
product | 3-amino-N-(3-(3-amino-5-methoxyphenylamino)quinoxalin-2-yl)benzenesulfonamide | 330 mg, 93% | NC=1C=C(C=CC1)S(=O)(=O)NC1=NC2=CC=CC=C2N=C1NC1=CC(=CC(=C1)OC)N | C21H20N6O3S
